US05767014
B. 4,4'-bis(4-hydroxyphenoxy)benzil
In a 250 ml round-bottom flask with a stirbar were placed 4,4'-bis(4-methoxyphenoxy)benzil (7.81 g, 20 mmol) and pyridine hydrochloride (13.87 g, 120 mmol). The mixture was heated under nitrogen in a 220° C. oil bath for 45 mins after which time deprotection was complete. The mixture was cooled to 80° C. and diluted to a volume of 250 ml by dropwise addition of water. The crude product was isolated by suction filtration, washed with water and then recrystallized from acetic acid to give the product (6.91 g, 81%). (mp=220°-221° C.).

reactant | 4,4'-bis(4-methoxyphenoxy)benzil | 20 mmol, 7.81 g | COC1=CC=C(OC2=CC=C(C=C2)C(=O)C(=O)C2=CC=C(C=C2)OC2=CC=C(C=C2)OC)C=C1 | C28H22O6
reactant | pyridine hydrochloride | 120 mmol, 13.87 g | Cl.N1=CC=CC=C1
solvent | water | O | H2O
product | 4,4'-bis(4-hydroxyphenoxy)benzil | 6.91 g, 81% | OC1=CC=C(OC2=CC=C(C=C2)C(=O)C(=O)C2=CC=C(C=C2)OC2=CC=C(C=C2)O)C=C1 | C26H18O6
